US04065467
Piperidine (200 ml) was added to a solution consisting of methyl 3-hydroxy-4-acetyl-benzoate (15 g) and salicylaldehyde 15 g) in absolute ethanol (400 ml); the mixture was kept at reflux temperature for 40 hours. After cooling, acidification with hydrochloric acid and extraction with ethylacetate, the organic phase was washed with K2CO3 5%, and with water, then evaporated to dryness. The residue, so obtained (11 g), was dissolved in n-amylic alcohol (200 ml) by adding SeO2 (11 g) and the solution was kept at reflux temperature for 18 hours. After cooling, the residue was filtered off and the amylic alcohol was distilled in a steam current: the residue of the distillation was recovered by extraction with chloroform, to give, after crystallisation from ethanol, 7-carbomethoxy-2'-hydroxy-flavone (6.3 g), which was reacted in dimethylformamide (30 ml) with 2-bromo-propane (3.5 g) and anhydrous potassium carbonate (4 g) at 70° C for 18 hours. After cooling, the mixture was diluted with water (200 ml), and then filtered, so obtaining 7-carbomethoxy-2'-isopropoxy-flavone (7.9 g) which was subsequently hydrolyzed by treatment with the stoichiometric quantity of a solution of potassium hydroxide 1% in ethanol 95% at reflux temperature for 30 minutes. After cooling, acidification with acetic acid, dilution with water, filtration, and subsequent crystallisation from ethanol, 7-carboxy-2'-isopropoxy-flavone (5.7 g) was obtained.

reactant | Piperidine | 200 ml | N1CCCCC1 | C5H11N
reactant | methyl 3-hydroxy-4-acetyl-benzoate | 15 g | OC=1C=C(C(=O)OC)C=CC1C(C)=O | C10H10O4
reactant | salicylaldehyde | 15 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 7-carboxy-2'-isopropoxy-flavone | 5.7 g | C(=O)(O)C1=CC=C2C(C=C(OC2=C1)C1=C(C=CC=C1)OC(C)C)=O | C19H16O5
